US07977372B2
5-bromo-2-[1,3]dioxolan-2-ylpyridine
To a solution of 5-bromopyridine-2-aldehyde (3.72 g, 20 mmol) in toluene (60 mL) was added TsOH monohydrate (190 mg, 1 mmol) and ethane-1,2-diol (2.48 g, 40 mmol). The mixture was heated to reflux for 6 hours. The solvent was removed, and the residue was dissolved in ethyl acetate and washed with sodium bicarbonate and brine. The organic layer was dried with sodium sulfate and concentrated to give the crude product. MS: calc'd 230 (MH+), exp 230 (MH+).

reactant | 5-bromopyridine-2-aldehyde | 20 mmol, 3.72 g | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | ethane-1,2-diol | 40 mmol, 2.48 g | C(CO)O | C2H6O2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-[1,3]dioxolan-2-ylpyridine | BrC=1C=CC(=NC1)C1OCCO1 | C8H8BrNO2
